US09062092B2
A solution of 3-oxo-butyric acid tert-butyl ester (15.8 g, 100 mmol) and aqueous formaldehyde (37% solution in water, 18 mL, 230 mmol) in 1,4-dioxane (50 mL) was stirred at 0° C. under nitrogen. A solution of triethylamine (505 mg, 0.7 mL, 5 mmol) in tetrahydrofuran (5 mL) was added dropwise and the reaction mixture was stirred at 40° C. for 1 h and then at room temperature for 20 h. The majority of the solvent was evaporated, water was added and the mixture was extracted with ethyl acetate. The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 7:3 to 1:1 to afford 2,2-bis-hydroxymethyl-3-oxo-butyric acid tert-butyl ester (8.67 g, 40%) as a clear oil. 1H NMR (300 MHz, d6-DMSO) 61.38 (s, 9H), 2.07 (s, 3H), 3.81-3.86 (m, 4H), 4.77 (t, J=5.1 Hz, 2H). LCMS (m/z) 217.0 [M−H], Tr=1.45 min.

reactant | 3-oxo-butyric acid tert-butyl ester | 100 mmol, 15.8 g | C(C)(C)(C)OC(CC(C)=O)=O | C8H14O3
reactant | formaldehyde | 230 mmol, 18 mL | C=O | CH2O
reactant | triethylamine | 5 mmol, 0.7 mL, 505 mg | C(C)N(CC)CC | C6H15N
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2,2-bis-hydroxymethyl-3-oxo-butyric acid tert-butyl ester | 8.67 g, 40% | C(C)(C)(C)OC(C(C(C)=O)(CO)CO)=O | C10H18O5
